US05389633
Production of 6-(2-isopropyl-3-sulfamoyl-1-propoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
Using 3-(N,N-dimethylaminomethylene)aminosulfonyl-2-isopropyl-1-propanol and 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction as in Example 6 was conducted to produce the title compound. m.p. 196°-197° C.

reactant | 3-(N,N-dimethylaminomethylene)aminosulfonyl-2-isopropyl-1-propanol | CN(C)C=NS(=O)(=O)CC(CO)C(C)C | C9H20N2O3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
product | 6-(2-isopropyl-3-sulfamoyl-1-propoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | C(C)(C)C(COC=1C(=CC=2N(N1)N=CN2)C)CS(N)(=O)=O | C12H19N5O3S
